US09169271B2
N-[3-[(4aR,7aS)-2-Amino-4a-fluoro-5,7-dihydro-4H-furo[3,4-d][1,3]oxazin-7a-yl]-4-fluoro-phenyl]-5-[(1-fluorocyclopropyl)methoxy]pyrazine-2-carboxamide hydrochloride
N-[3-[(4aR,7aS)-2-Amino-4a-fluoro-5,7-dihydro-4H-furo[3,4-d][1,3]oxazin-7a-yl]-4-fluoro-phenyl]-5-chloro-pyrazine-2-carboxamide (110 mg, 268. μmol), (1-fluorocyclopropyl)methanol (73 mg, 805 μmol) and potassium carbonate (111 mg, 805.31 μmol) are combined in a microwave vial. Acetonitrile (3 mL) is added and the reaction mixture is heated at 150° C. for 1.5 hours in a microwave reactor. The reaction mixture is diluted with ethyl acetate and the organic layer is washed with saturated aqueous NaHCO3 and water. The combined aqueous layers are extracted twice with ethyl acetate dried with MgSO4 and the solvent removed in vacuo to give the crude product. The crude product is purified by silica gel flash chromatography, eluting with 0-3% (7 N NH3-methanol) in dichloromethane to give the free base of the title product (37 mg, 30%). The free base is dissolved in dichloromethane (2 mL) and treated with hydrochloric acid (1 M in diethyl ether, 80 μL, 80 μmol), and concentrated under reduced pressure to give the title product (39 mg, 29%). ES/MS (m/e): 464 (M+1)

reactant | N-[3-[(4aR,7aS)-2-Amino-4a-fluoro-5,7-dihydro-4H-furo[3,4-d][1,3]oxazin-7a-yl]-4-fluoro-phenyl]-5-chloro-pyrazine-2-carboxamide | 110 mg | NC=1OC[C@]2([C@@](N1)(COC2)C=2C=C(C=CC2F)NC(=O)C2=NC=C(N=C2)Cl)F | C17H14ClF2N5O3
reactant | (1-fluorocyclopropyl)methanol | 805 μmol, 73 mg | FC1(CC1)CO | C4H7FO
reactant | potassium carbonate | 805.31 μmol, 111 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Acetonitrile | 3 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[3-[(4aR,7aS)-2-Amino-4a-fluoro-5,7-dihydro-4H-furo[3,4-d][1,3]oxazin-7a-yl]-4-fluoro-phenyl]-5-[(1-fluorocyclopropyl)methoxy]pyrazine-2-carboxamide hydrochloride | 37 mg, 30% | Cl.NC=1OC[C@]2([C@@](N1)(COC2)C=2C=C(C=CC2F)NC(=O)C2=NC=C(N=C2)OCC2(CC2)F)F | InChI=1S/C21H20F3N5O4.ClH/c22-14-2-1-12(5-13(14)21-11-31-9-20(21,24)10-33-18(25)29-21)28-17(30)15-6-27-16(7-26-15)32-8-19(23)3-4-19;/h1-2,5-7H,3-4,8-11H2,(H2,25,29)(H,28,30);1H/t20-,21-;/m1./s1
